US04131673
A solution of 2.4 g of ethyl 1-[N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylate acetate in 10 ml of ethanol and 10 ml of N-NaOH solution was stirred overnight at room temperature. Then, the reaction mixture was concentrated and dissolved in 10 ml of water. The solution was neutralized with 2N-HCl solution to give a white gummy precipitate which was dissolved in 150 ml of chloroform. The chloroform solution was washed with saturated NaCl solution, dried over anhydrous sodium sulfate and evaporated in vacuo to give 1.52 g of 1-[N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylic acid as an amorphous solid. I.R. (KBr): 3350, 2920, 1620, 1250 cm-1.

reactant | ethyl 1-[N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylate acetate | 2.4 g | C(C)(=O)O.C1(CCCCC1)C=1C=C(C=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CC(CC1)C)C(=O)OCC
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylic acid | 1.52 g | C1(CCCCC1)C=1C=C(C=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CC(CC1)C)C(=O)O | C26H41N5O6S
